US06974870B2
To a sealed tube was added 4-hydroxybenzamide (200 mg, 1.458 mmol), epichlorohydrin (135 mg, 1.458 mmol) and potassium carbonate (403 mg, 2.916 mmol) in 7 mL of dry DMF. The reaction mixture was stirred at 70° C. for 18 h. The reaction mixture was filtered and concentrated. The residue was purified by flash chromatography, eluting with 0-5% 2M NH3 in MeOH/CH2Cl2. The product fractions were collected and concentrated to afford 80 mg of 4-oxiranylmethoxy-benzamide as a white solid.

reactant | 4-hydroxybenzamide | 1.458 mmol, 200 mg | OC1=CC=C(C(=O)N)C=C1 | C7H7NO2
reactant | epichlorohydrin | 1.458 mmol, 135 mg | C(Cl)C1CO1 | C3H5ClO
reactant | potassium carbonate | 2.916 mmol, 403 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 4-oxiranylmethoxy-benzamide | 80 mg | O1C(C1)COC1=CC=C(C(=O)N)C=C1 | C10H11NO3
